US06716851B2
4-Chloromethyl-N-[4-methyl-3-(2-pyridin-4-yl-6-(trifluoromethyl)pyrimidin-4-ylamino)-phenyl]benzamide
The title compound was prepared from a mixture of 4-(5-amino-2-methylanilino)-2-(4-pyridinyl)-6-(trifluoromethyl)pyrimidine (80 mg, 0.232 mmol) and 4-chloromethylbenzoyl chloride (53 mg, 0.278 mmol) similar to Example 139 and isolated as a yellow solid (55 mg, 48%). 1H NMR (CDCl3): 8.75 (dd, J=1.8, 4.8 Hz, 2H), 8.29 (dd, J=1.8, 4.8 Hz, 2H), 8.02 (s, 1H), 7.96 (s, 1H), 7.88 (d, J=8.4 Hz, 2H), 7.51 (d, J=8.4 Hz, 2H), 7.37 (dd, J=1.8, 7.5 Hz, 1H), 7.32 (d, J=7.5 Hz, 1H), 7.12 (s, 1H), 6.75 (s, 1H), 4.63 (s, 2H), 2.28 (s, 3H).

reactant | 4-(5-amino-2-methylanilino)-2-(4-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.232 mmol, 80 mg | NC=1C=CC(=C(NC2=NC(=NC(=C2)C(F)(F)F)C2=CC=NC=C2)C1)C | C17H14F3N5
reactant | 4-chloromethylbenzoyl chloride | 0.278 mmol, 53 mg | ClCC1=CC=C(C(=O)Cl)C=C1 | C8H6Cl2O
product | 4-Chloromethyl-N-[4-methyl-3-(2-pyridin-4-yl-6-(trifluoromethyl)pyrimidin-4-ylamino)-phenyl]benzamide | ClCC1=CC=C(C(=O)NC2=CC(=C(C=C2)C)NC2=NC(=NC(=C2)C(F)(F)F)C2=CC=NC=C2)C=C1 | C25H19ClF3N5O
